* D:\HS Bremen\WiSe 3 (2025-2026)\SEELEK\Labour\Labor 2\simulation 1\C4 HSS 1.asc
* Generated by LTspice 24.1.10 for Windows.
V1 Ue 0 10
L1 N001 N002 1m
D1 N003 Ua D
C1 Ua 0 220µ
Rl Ua 0 100
V2 N004 N005 PULSE(0 10 0 0 0 {d*1/fs}{1/fs})
S1 0 N003 N004 N005 SW
R Ua 0 10k
Rv N001 Ue 3.3
R1 N003 N002 0.3
.model D D
.lib C:\Users\Simon\AppData\Local\LTspice\lib\cmp\standard.dio
.param fs 2.5k
.step param d 0.2 0.8 0.2
.model SW SW(Ron=0.01 Roff=1Meg Von=1V Voff=0V)
.tran 0 50m 9992u 1u uic
.meas TRAN Delta_I PP I(Rv) FROM 0 TO 40m
.meas TRAN Ie_Eff RMS I(Rv) FROM 0 TO 40m
.meas TRAN Delta_U PP V(Ua) FROM 0 TO 40m
.meas TRAN Ua_Eff RMS V(Ua) FROM 0 TO 40m
* STROM
* SPANNUNG
.backanno
.end
